US08748440B2
In a similar manner as described above in Paragraph A, 5-methoxy-3-(4-methoxyphenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one, as prepared above in Example 5, was condensed with 4-tert-butylbenzenesulfonyl chloride to yield 4-tert-butyl-N-{1-[5-methoxy-3-(4-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-N-methylbenzenesulfonamide; MS (ESI) 536 (MH+).

reactant | 5-methoxy-3-(4-methoxyphenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one | COC1=C2C(N(C(=NC2=CC=C1)C(C)NC)C1=CC=C(C=C1)OC)=O | C19H21N3O3
reactant | 4-tert-butylbenzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-butyl-N-{1-[5-methoxy-3-(4-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-N-methylbenzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C)C(C)C1=NC2=CC=CC(=C2C(N1C1=CC=C(C=C1)OC)=O)OC | C29H33N3O5S
